US05866564
54(a)(ii") (2S,4S)-2-[4-(2-Hydroxyethyl)-1-piperazinylcarbonyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
0.21 ml of triethylamine, followed by 0.19 ml of pivaloyl chloride, were added dropwise at -20° C. to a solution of 0.5 g of trans-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-L-proline in 5 ml of dry tetrahydrofuran, and the resulting mixture was stirred at the same temperature for 5 minutes. A solution of 0.25 of 1-(2-hydroxyethyl)piperazine in 3 ml of dry tetrahydrofuran was then added, and the reaction mixture was stirred at the same temperature for 30 minutes, after which the solvent was removed by distillation under reduced pressure. The resulting residue was worked up and purified in a similar manner to that described in step 54(a)(ii), to give 0.42 g of the title compound, as a powder. The infrared absorption spectrum and nuclear magnetic resonance spectrum of the product were identical with those of the compound obtained as described in step 54(a)(ii) above.

reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.19 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | trans-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-L-proline | 0.5 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H16N2O9S
reactant | 1-(2-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2S,4S)-2-[4-(2-Hydroxyethyl)-1-piperazinylcarbonyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.42 g | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H28N4O9S
